US08227801B2
3-bromo-9-(dibenzo[b,d]thiophen-4-yl)-9H-carbazole (5 g, 11.67 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (4.45 g, 17.51 mmol), potassium acetate (2.86 g, 29.2 mmol), and dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-2-yl)phosphine (0.192 g, 0.467 mmol) were mixed in 150 ml, of dioxane. Nitrogen was bubbled through the solution for 20 min. Pd2dba3 (0.107 g, 0.117 mmol) was added and the reaction mixture was heated up to 100° C. for 4 h. TLC indicated the reaction was done. The reaction was cooled to room temperature and filtered through Celite. After solvent evaporation, the residue was coated on Celite and purified by column using 10% ethyl acetate in hexanes as solvent. 9-(dibenzo[b,d]thiophen-4-yl)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-9H-carbazole (4 g, 8.41 mmol, 72.1% yield) was obtained.

reactant | 3-bromo-9-(dibenzo[b,d]thiophen-4-yl)-9H-carbazole | 11.67 mmol, 5 g | BrC=1C=CC=2N(C3=CC=CC=C3C2C1)C1=CC=CC2=C1SC1=C2C=CC=C1 | C24H14BrNS
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 17.51 mmol, 4.45 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 29.2 mmol, 2.86 g | C(C)(=O)[O-].[K+]
catalyst | Pd2dba3 | 0.117 mmol, 0.107 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-2-yl)phosphine | 0.467 mmol, 0.192 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 9-(dibenzo[b,d]thiophen-4-yl)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-9H-carbazole | 8.41 mmol, 4 g, 72.1% yield | C1=CC=C(C=2SC3=C(C21)C=CC=C3)N3C2=CC=CC=C2C=2C=C(C=CC32)B3OC(C(O3)(C)C)(C)C | C30H26BNO2S
